US05331061
28 kg of caprolactam, 8.28 kg of dimerized fatty acid and 150 g of Irganox 1330 (antioxidant) are poured into a 100 liter steel autoclave equipped with a stirrer, temperature indicator, and vacuum pump, are heated to 225° C. under nitrogen with continuous stirring; and are kept at this temperature for two hours. 9.04 kg of α,ω-dihydroxypoly(oxytetramethylene) having an molar mass of 1000 g/mole (Terathane 1000 produced by DuPont) and 10.25 kg of an equivalent dihydroxypolyether having an molar mass of 2000 g/mole (Terathane 2000 produced by DuPont) are then introduced together with 100 g of the tin-(II)-salt of 2-ethylhexanoic acid produced by Acima/Buchs, Switzerland.

reactant | caprolactam | 28 kg | C1(CCCCCN1)=O | C6H11NO
reactant | Irganox 1330 | 150 g | CC1=C(C(=C(C(=C1CC2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C)CC3=CC(=C(C(=C3)C(C)(C)C)O)C(C)(C)C)C)CC4=CC(=C(C(=C4)C(C)(C)C)O)C(C)(C)C | C54H78O3
product | Terathane 1000 | CCCCO[C@@H](CC)CO | C8H18O2
